US06194406B1
1-(2-Methylthio-5-(1H-tetrazol-1-yl)benzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine
Combine 3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine hydrochloric acid salt (prepared from (−)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine(R,R)-di-p-anisoyltartaric acid salt) (0.53 g, 1.0 mmol) and dichloromethane (10 mL). Add 2-methylthio-5-(1H-tetrazol-1-yl)benzoic acid (0.24 g, 1.0 mmol), 1-hydroxybenzotriazole hydrate (0.16 g, 1.2 mmol), N,N-diisopropylethylamine (0.34 mL, 2.0 mmol), and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.23 g, 1.2 mmol). After 18 hours, dilute the reaction mixture with ethyl acetate and extract with brine. Dry the organic layer over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting sequentially with ethyl acetate, 2% methanol/ethyl acetate, and the 8% methanol/ethyl acetate to give a residue. Combine the residue and dichloromethane, extract with brine, twice with a saturated aqueous solution of ammonium chloride, and then a saturated aqueous solution of sodium bicarbonate. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give the title compound: Rf=0.34 (silica gel, 10% methanol/ethyl acetate).

reactant | 3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine hydrochloric acid salt | 1.0 mmol, 0.53 g | Cl.C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCN(CCC2)CCC2(CNCC2)C2=CC=CC=C2
reactant | 2-methylthio-5-(1H-tetrazol-1-yl)benzoic acid | 1.0 mmol, 0.24 g | CSC1=C(C(=O)O)C=C(C=C1)N1N=NN=C1 | C9H8N4O2S
reactant | 1-hydroxybenzotriazole hydrate | 1.2 mmol, 0.16 g | O.ON1N=NC2=C1C=CC=C2
reactant | N,N-diisopropylethylamine | 2.0 mmol, 0.34 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.2 mmol, 0.23 g | Cl.C(C)N=C=NCCCN(C)C
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol ethyl acetate | CO.C(C)(=O)OCC
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-(2-Methylthio-5-(1H-tetrazol-1-yl)benzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine | CSC1=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCN(CCC2)C2=NC3=C(N2CCOCC)C=CC=C3)C=C(C=C1)N1N=NN=C1 | C37H45N9O2S
